*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7R(-55to125[deg])/6.80e-04[uF]/100[V]
* Murata P/N :GRM155R72A681KA01
* Property : C = 6.80e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R72A681KA01 Port1 Port2
C01 Port1 N01 6.65e-10
R01 Port1 N01 1.00e+10
L02 N01 N02 1.62e-10
R03 N02 N03 3.20e-01
C04 N03 N04 5.20e-08
R04 N03 N04 3.32e+04
C05 N04 N05 1.06e-07
R05 N04 N05 8.74e+02
C06 N05 N06 9.15e-08
R06 N05 N06 9.81e+01
C07 N06 N07 8.96e-08
R07 N06 N07 1.26e+01
C08 N07 N08 6.16e-08
R08 N07 N08 3.04e+00
C09 N08 N09 2.89e-08
R09 N08 N09 8.87e-01
C10 N09 N10 5.85e-09
R10 N09 N10 3.58e-01
L11 N10 N11 3.02e-11
R11 N10 N11 7.16e-01
C12 N11 N12 5.59e-11
L12 N11 N12 5.52e-11
R12 N11 N12 7.93e-01
C13 N12 Port2 2.29e-12
L13 N12 Port2 1.53e-10
R13 N12 Port2 1.75e+01
.ENDS GRM155R72A681KA01
